US08492378B2
4-(5-methyl-1,3,4-oxadiazol-2-yl)pyridin-2-amine
A mixture of tert-butyl[4-(5-methyl-1,3,4-oxadiazol-2-yl)pyridin-2-yl]carbamate (440 mg, 1.59 mmol) and trifluoroacetic acid (10 mL) was stirred at room temperature for 1.5 hr. The reaction mixture was concentrated under reduced pressure, and the residue was neutralized with saturated aqueous sodium hydrogen carbonate solution, and extracted with ethyl acetate/tetrahydrofuran. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give the title compound (257 mg, yield 92%) as pale-yellow crystals.

reactant | tert-butyl[4-(5-methyl-1,3,4-oxadiazol-2-yl)pyridin-2-yl]carbamate | 1.59 mmol, 440 mg | C(C)(C)(C)OC(NC1=NC=CC(=C1)C=1OC(=NN1)C)=O | C13H16N4O3
solvent | trifluoroacetic acid | 10 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 4-(5-methyl-1,3,4-oxadiazol-2-yl)pyridin-2-amine | 257 mg, yield 92% | CC1=NN=C(O1)C1=CC(=NC=C1)N | C8H8N4O
